US05334716
To a mixture of ethyl 4-[1-(4-hydroxybenzoyl)indolizin- 3-yl]butyrate (392 mg), (R)-1-(4-isobutylphenyl)butan-1-ol (230 mg) and triphenylphosphine (292 mg) in tetrahydrofuran (3 ml) and toluene (15 ml) was added diethyl azodicarboxylate (0.178 ml) at -20° C. under nitrogen atmosphere. After the mixture was stirred at -20° C. under nitrogen for 2.5 hours, acetic acid (0.05 ml) was added and the mixture was warmed up to room temperature. The solvent was evaporated under reduced pressure and the residue was poured into a mixture of ethyl acetate and water. The organic phase was separated, washed with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel column eluting with a mixture of n-hexane and ethyl acetate (4:1) to give ethyl 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]indolizin-3-yl]butyrate (295 mg) as an oil.

reactant | ethyl 4-[1-(4-hydroxybenzoyl)indolizin- 3-yl]butyrate | 392 mg | OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C21H21NO4
reactant | (R)-1-(4-isobutylphenyl)butan-1-ol | 230 mg | C(C(C)C)C1=CC=C(C=C1)[C@@H](CCC)O | C14H22O
reactant | triphenylphosphine | 292 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.178 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-[1-[4-[(S)-1-(4-isobutylphenyl)butoxy]benzoyl]indolizin-3-yl]butyrate | 295 mg | C(C(C)C)C1=CC=C(C=C1)[C@H](CCC)OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C35H41NO4
